US04704459
In 2 ml of benzene was suspended 200 mg of ethyl 2-[2-(2,4-difluorophenylamino)-5-fluoro-6-hydroxynicotinoyl]acetate, and 87 mg of N,N-dimethylformamide dimethylacetal was added thereto, after which the resulting mixture was subjected to reaction under reflux for 10 hours. Thereafter the crystals thus deposited were collected by filtration. To the crystals thus obtained were added 0.5 ml of methanol and 1 ml of water, and the pH thereof was adjusted to 1.0 with 2N hydrochloric acid, after which the crystals thus deposited were collected by filtration to obtain 80 mg (yield 38.9%) of ethyl 1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-7-hydroxy-4-oxo-1,8-naphthyridine-3-carboxylate having a melting point of 243°-248° C.

reactant | ethyl 2-[2-(2,4-difluorophenylamino)-5-fluoro-6-hydroxynicotinoyl]acetate | 200 mg | FC1=C(C=CC(=C1)F)NC1=C(C(=O)CC(=O)OCC)C=C(C(=N1)O)F | C16H13F3N2O4
reactant | N,N-dimethylformamide dimethylacetal | 87 mg | COC(N(C)C)OC | C5H13NO2
reactant | methanol | 0.5 ml | CO | CH4O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | benzene | 2 ml | C1=CC=CC=C1 | C6H6
solvent | water | 1 ml | O | H2O
product | ethyl 1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-7-hydroxy-4-oxo-1,8-naphthyridine-3-carboxylate | 80 mg, yield 38.9% | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(N=C12)O)F)=O)C(=O)OCC | C17H11F3N2O4
